US06380430B1
Analogously to Example 1, by reaction of methyl 3-bromobenzoate with 3-tolylboronic acid, methyl 3′-methylbiphenyl-3-carboxylate is obtained. By bromination with NBS and reaction with methyl 3-hydroxybenzoate, methyl 3′-(3-methoxycarbonylphenoxymethyl)biphenyl-3-carboxylate is obtained therefrom. By reaction with guanidine hydrochloride in methanolic sodium methoxide solution, N-[3′-(3-guanidinocarbonylphenoxymethyl)biphenyl-3-carbonyl]-guanidine

reactant | methyl 3-bromobenzoate | BrC=1C=C(C(=O)OC)C=CC1 | C8H7BrO2
reactant | 3-tolylboronic acid | C1(=CC(=CC=C1)B(O)O)C | C7H9BO2
product | methyl 3′-methylbiphenyl-3-carboxylate | CC=1C=C(C=CC1)C1=CC(=CC=C1)C(=O)OC | C15H14O2
